US04260633
A solution of 10.01 g (55.3 mmol) of (R)-2-bromo-3-methylbutanoic acid in methanol is titrated with 1 M potassium hydroxide (~53 ml) in methanol to the phenolphthalein endpoint. The methanol is then removed under high vacuum at 35°, and the solid is kept at 35° under high vacuum for one hour. 4-Trifluoromethylaniline (23.89 g, 148.3 mmol) is added to the salt, and the mixture is heated in a pre-heated oil bath (90°) under nitrogen for 30 minutes. The mixture is then cooled and worked up immediately by partitioning between pentane/5% sodium hydroxide. The layers are separated and the pentane phase is extracted with 5% sodium hydroxide (2×). The combined aqueous phases are extracted with pentane (2×) and acidified with cold conc. hydrochloric acid. The aqueous phase is then extracted with ether (3×), and the combined ether phases are washed with brine and dried over magnesium sulfate. Filtration and evaporation yield (R)-2-(4-trifluoromethylphenylamino)-3-methylbutanoic acid.

reactant | (R)-2-bromo-3-methylbutanoic acid | 55.3 mmol, 10.01 g | Br[C@@H](C(=O)O)C(C)C | C5H9BrO2
reactant | potassium hydroxide | 1 M, ~53 ml | [OH-].[K+]
reactant | phenolphthalein | C=1C=CC2=C(C1)C(=O)OC2(C=3C=CC(=CC3)O)C=4C=CC(=CC4)O | C20H14O4
reactant | 4-Trifluoromethylaniline | 148.3 mmol, 23.89 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
solvent | methanol | CO | CH4O
product | (R)-2-(4-trifluoromethylphenylamino)-3-methylbutanoic acid | FC(C1=CC=C(C=C1)N[C@@H](C(=O)O)C(C)C)(F)F | C12H14F3NO2
